US06432624B1
11.3 g of 5-amino-3-benzylthiotriazole, 1.1 g of sodium hydroxide and 10 g of gelatin were dissolved in 1000 L of water, and the solution was maintained at 50° C. under agitation. Subsequently, a solution obtained by dissolving 8.5 g of silver nitrate in 100 mL of water was added to the above solution over a period of 2 min. The pH of the mixture was regulated so as to precipitate an emulsion, and excess salts were removed. Thereafter, the pH was adjusted to 6.0. Thus, a 5-amino-3-benzylthiotriazole silver salt emulsion was obtained with a yield of 400 g.

reactant | 5-amino-3-benzylthiotriazole | 11.3 g | NC1=CN(N=N1)SCC1=CC=CC=C1 | C9H10N4S
reactant | sodium hydroxide | 1.1 g | [OH-].[Na+]
reactant | silver nitrate | 8.5 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 1000 L | O | H2O
solvent | water | 100 mL | O | H2O
product | 5-amino-3-benzylthiotriazole silver salt | [Ag].NC1=CN(N=N1)SCC1=CC=CC=C1 | InChI=1S/C9H10N4S.Ag/c10-9-6-13(12-11-9)14-7-8-4-2-1-3-5-8;/h1-6H,7,10H2;
